US07060844B2
To a stirred mixture of 3-[5-(2-hydroxy-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one (50 mg, 0.16 mmol) and acetic anhydride (20 mg, 0.20 mmol) in THF (3 ml), was added 4-dimethylaminopyridine (10 mg, 0.08 mmol). The mixture was stirred for 30 minutes and was then poured into water (75 ml). The solid was filtered, washed with water and dried under vacuum to give acetic acid 2-[1-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-ylamino]-ethyl ester as a yellow solid (39 mg, 68%).

reactant | 3-[5-(2-hydroxy-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 0.16 mmol, 50 mg | OCCNC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C18H16N2O3
reactant | acetic anhydride | 0.20 mmol, 20 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 75 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | acetic acid 2-[1-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-ylamino]-ethyl ester | 39 mg, 68% | O=C1NC2=CC=CC=C2C1=C1OCC2=CC(=CC=C12)NCCOC(C)=O | C20H18N2O4
